US08217069B2
To a suspension of 4,6-dichloro-5-nitropyrimidine (1.75 g) in acetonitrile (30 mL) were added 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline (1.98 g) and N,N-diisopropylethylamine (1.15 mL) at −20° C., and the reaction mixture was allowed to warm slowly to room temperature, and stirred at room temperature for 2.5 days. To the reaction mixture were added water and ethyl acetate, and the resulting mixture was stirred for 10 minutes. The insoluble material was removed by filtration, and the organic layer of the filtrate was separated. The organic layer was washed with 10% aqueous sodium chloride solution and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=7/3−9/11). The product was suspended in a mixed solvent (n-hexane/diethyl ether=3/1), and collected by filtration. The collected crystals were washed with the same solvent, and dried under reduced pressure to give 6-chloro-4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-5-nitropyrimidine (1.34 g). To the solution of the obtained 6-chloro-4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-5-nitropyrimidine (0.15 in 1-methyl-2-pyrrolidone (1 mL) was added sodium ethoxide (20% ethanol solution, 0.21 g), and the mixture was stirred at 60° C. for 2 hours. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1) to give 4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-6-ethoxy-5-nitropyrimidine (0.12 g). This material was dissolved in tetrahydrofuran (3 mL)-methanol (3 mL). To the solution was added 10% platinum-carbon powder (20 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−2/3) to give 5-amino-4-[2-chloro-5-(2,3-difluoro-6-methoxy-benzyloxy)-4-methoxyphenylamino]-6-ethoxypyrimidine (70 mg). This material was dissolved in tetrahydrofuran (3 mL). To the solution was added sodium hydride (55%, 23 mg), and the mixture was stirred at room temperature for 10 minutes. To the mixture was added triphosgene (18 mg), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residual solids were suspended in a mixed solvent (n-hexane/ethyl acetate=1/1), and collected by filtration. The collected solids were washed with the same solvent, and dried under reduced pressure to give the title compound (42 mg).

reactant | 6-chloro-4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-5-nitropyrimidine | ClC1=C(C(=NC=N1)NC1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)[N+](=O)[O-] | C19H14Cl2F2N4O5
reactant | sodium ethoxide | 0.21 g | [O-]CC.[Na+]
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | 1-methyl-2-pyrrolidone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-6-ethoxy-5-nitropyrimidine | 0.12 g | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)NC1=NC=NC(=C1[N+](=O)[O-])OCC | C21H19ClF2N4O6
